US07435744B2
2-(4-Benzyl-piperidin-1-yl)-N-(1H-indazol-5-yl)-acetamide (45 70001894)
The title compound is prepared from 2-chloro-N-(1H-indazol-5-yl)-acetamide and 4-benzyl-piperidine (Aldrich) according to the method described in Example 142b. Melting Point: 170-174° C. (diethylether)

reactant | 2-chloro-N-(1H-indazol-5-yl)-acetamide | ClCC(=O)NC=1C=C2C=NNC2=CC1 | C9H8ClN3O
reactant | 4-benzyl-piperidine | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
solvent | diethylether | C(C)OCC | C4H10O
product | 2-(4-Benzyl-piperidin-1-yl)-N-(1H-indazol-5-yl)-acetamide | C(C1=CC=CC=C1)C1CCN(CC1)CC(=O)NC=1C=C2C=NNC2=CC1 | C21H24N4O
